US20010047031A1
(2R, 3S) and (2S, 3S)-4-[1-(2-Fluoro-4-phenyl-butyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=378.3 (M+H+) was prepared from (S)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and (RS)-toluene-4-sulfonic acid 2-fluoro-4-phenyl-butyl ester.

reactant | (S)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1C[C@H](CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | (RS)-toluene-4-sulfonic acid 2-fluoro-4-phenyl-butyl ester | FC(COS(=O)(=O)C1=CC=C(C=C1)C)CCC1=CC=CC=C1 | C17H19FO3S
product | (2S, 3S)-4-[1-(2-Fluoro-4-phenyl-butyl)-pyrrolidine-3-sulfonyl]-phenol | F[C@H](CN1C[C@H](CC1)S(=O)(=O)C1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C20H24FNO3S
